US07645791B2
5-tert-Butyl-4′-cyano-4-hydroxy-2-methyl-biphenyl-3-carboxylic acid (4-cyano-2-trifluoromethoxy-phenyl)-amide
To a solution of 3-bromo-5-tert-butyl-N-(2-trifluoromethoxy-4-cyano-phenyl)-6-hydroxy-2-methyl-benzamide (0.141 g, 0.3 mmole) in dioxane (5 ml) under nitrogen, 4-cyanophenylboronic acid (44.0 mg, 0.3 mmole), tetrakis(triphenylphosphine)palladium(0) (7 mg, 0.006 mmole) and sodiumcarbonate (1.05 ml, 2 M solution in water) were added. The reaction mixture was heated at 100° C. for 6 hours. The reaction mixture was evaporated, diluted with ethyl acetate and the organic phase was washed with citric acid solution (10%). The organic phase was dried over sodium sulphate and evaporated. The crude compound was purified by column chromatography.

reactant | 3-bromo-5-tert-butyl-N-(2-trifluoromethoxy-4-cyano-phenyl)-6-hydroxy-2-methyl-benzamide | 0.3 mmole, 0.141 g | BrC=1C(=C(C(=O)NC2=C(C=C(C=C2)C#N)OC(F)(F)F)C(=C(C1)C(C)(C)C)O)C | C20H18BrF3N2O3
reactant | 4-cyanophenylboronic acid | 0.3 mmole, 44.0 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | sodiumcarbonate | 2 M, 1.05 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.006 mmole, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-tert-Butyl-4′-cyano-4-hydroxy-2-methyl-biphenyl-3-carboxylic acid (4-cyano-2-trifluoromethoxy-phenyl)-amide | C(#N)C1=CC(=C(C=C1)NC(=O)C=1C(=C(C=C(C1O)C(C)(C)C)C1=CC=C(C=C1)C#N)C)OC(F)(F)F | C27H22F3N3O3
